US04695581
3 g of 4-n-propoxyaniline and 2.56 g of 4-(2-bromo-1-oxopropyl)-2,6-dimethylphenol were heated at 150° C. for 40 minutes in a stream of nitrogen. Ice water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was purified by silica gel column chromatography, and recrystallized from ether-hexane to give 2-(4-hydroxy-3,5-dimethylphenyl)-3-methyl-5-n-propoxyindole.

reactant | 4-n-propoxyaniline | 3 g | C(CC)OC1=CC=C(N)C=C1 | C9H13NO
reactant | 4-(2-bromo-1-oxopropyl)-2,6-dimethylphenol | 2.56 g | BrC(C(=O)C1=CC(=C(C(=C1)C)O)C)C | C11H13BrO2
product | 2-(4-hydroxy-3,5-dimethylphenyl)-3-methyl-5-n-propoxyindole | OC1=C(C=C(C=C1C)C=1NC2=CC=C(C=C2C1C)OCCC)C | C20H23NO2
